US04309426
Utilizing the reaction conditions of Example 2, 9.3 g (0.04 mole) of 2,4-dichlorophenacyl chloride and 4.77 g (0.04 mole) of 4-ethylthiosemicarbazide are reacted in 200 ml of methanol to produce 6.5 g of 5-(2,4-dichlorophenyl)-N-ethyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride after recrystallization which, in this case, was from methanol/ethyl acetate. m.p. 197°-198° C.

reactant | 2,4-dichlorophenacyl chloride | 0.04 mole, 9.3 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | 4-ethylthiosemicarbazide | 0.04 mole, 4.77 g | C(C)NC(NN)=S | C3H9N3S
solvent | methanol | 200 ml | CO | CH4O
product | 5-(2,4-dichlorophenyl)-N-ethyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride | 6.5 g | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)NCC | InChI=1S/C11H11Cl2N3S.ClH/c1-2-14-11-16-15-10(6-17-11)8-4-3-7(12)5-9(8)13;/h3-5H,2,6H2,1H3,(H,14,16);1H
